US04900743
1-(2-Fluorobenzoyl)-4-methylthiosemicarbazide
To a stirred room temperature solution of 4-methylthiosemicarbazide (10.5 g, 1.00×10-1 mole) and pyridine (250 ml), 2-fluorobenzoyl chloride (11.9 ml, 1.00×10-1 mole) was added dropwise. After stirring overnight at room temperature the excess pyridine was evaporated at reduced pressure first on a rotary evaporator and then at high vacuum. This afforded a mixture of the desired product and pyridine hydrochloride which is used without further purification in the subsequent cyclization step.

reactant | 4-methylthiosemicarbazide | 1.00×10-1 mole, 10.5 g | CNC(NN)=S | C2H7N3S
reactant | 2-fluorobenzoyl chloride | 1.00×10-1 mole, 11.9 ml | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
product | 1-(2-Fluorobenzoyl)-4-methylthiosemicarbazide | FC1=C(C(=O)NNC(=S)NC)C=CC=C1 | C9H10FN3OS
